US05834468
A mixture of ethyl 4-[2-benzyloxy-5-bromophenylacetamido]-benzoate (2.5 g) and BH3. THF (10 mM) in THF (60 ml) was stirred at 50° C. for 2 hours, cooled (ice bath) and diluted with 2N HCl solution (10 ml) and diethyl ether (50 ml). The organic layer was separated, dried (MgSO4) amd evaporated. The residue was purified by chromatography on silica gel eluting with dichloromethane to give ethyl 4-[N-(2-benzyloxy-5-bromophenethyl)amino]benzoate (1.4 g).

reactant | ethyl 4-[2-benzyloxy-5-bromophenylacetamido]-benzoate | 2.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C24H22BrNO4
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | HCl | 2N, 10 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | THF | 10 mM | C1CCOC1 | C4H8O
product | ethyl 4-[N-(2-benzyloxy-5-bromophenethyl)amino]benzoate | 1.4 g | C(C1=CC=CC=C1)OC1=C(CCNC2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C24H24BrNO3
